US08022223B2
Ethyl 3-(2-amino-5-bromopyridin-3-yloxy)-4-chlorobenzoate (9.645 g, 25.95 mmol) and benzoyl isothiocyanate (4.659 g, 28.55 mmol) were placed in THF (250 mL) and the reaction mixture was stirred at room temperature for 18 hours, then heated at 55° C. for two days. THF was removed and the residue was purified by silica gel chromatography (5-25% EtOAc in hexane) to provide ethyl 3-(2-(3-benzoylthioureido)-5-bromopyridin-3-yloxy)-4-chlorobenzoate (7.08 g, 51.0%) as a yellow solid.

reactant | Ethyl 3-(2-amino-5-bromopyridin-3-yloxy)-4-chlorobenzoate | 25.95 mmol, 9.645 g | NC1=NC=C(C=C1OC=1C=C(C(=O)OCC)C=CC1Cl)Br | C14H12BrClN2O3
reactant | benzoyl isothiocyanate | 28.55 mmol, 4.659 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | ethyl 3-(2-(3-benzoylthioureido)-5-bromopyridin-3-yloxy)-4-chlorobenzoate | 7.08 g, 51.0% | C(C1=CC=CC=C1)(=O)NC(NC1=NC=C(C=C1OC=1C=C(C(=O)OCC)C=CC1Cl)Br)=S | C22H17BrClN3O4S
